Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
patotitis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a history of prostate cancer status post external beam
radiotherapy, pre-diabetes, hyperlipidemia, and GERD, who
presented from his PCP office with MRI findings concerning
parotid abscess, in the setting of ten days of right mandibular
swelling and pain.

Patient was in his usual state of health until ___, when he
developed swelling around his right mandible, which was tender 
to
palpation. Aching in nature, radiating intermittently up to
preauricular area. Went to Urgent Care on ___ where 
examination
revealed swelling and tenderness to palpation over right angle 
of
the mandible, consistent with right sided parotitis. Mumps IgG
and culture sent and were negative. Recommended to use cold
compresses and take ibuprofen TID for three days. Although
swelling and pain initially improved, he subsequently developed
pain with eating, prompting him to represent to Urgent Care on
___. Persistent symptoms were attributed to ongoing parotitis
from possible blocked salivary duct. Recommended to try sour
candy and continue to use NSAIDs, with plan to ___ with 
PCP
___ ___. Presented to his PCP for ___ on ___, at which
time he reported overall better pain control, however persistent
swelling and new pain when opening and closing mouth. He also
reported fatigue and fever of ___ on ___. Decision was made 
to
obtain imaging with MRI with and without contrast; this
demonstrated findings concerning for parotid abscess, prompting
presentation to the ED.
 
Past Medical History:
 Aortic regurgitation
- Prostate cancer status post EBRT
- Pre-diabetes
- Hyperlipidemia
- GERD
- Nephrolithiasis
- Erectile dysfunction
- Senile nuclear sclerosis
- Vitamin D deficiency
- Migraine
- Pigment dispersion syndrome
 
Social History:
___
Family History:
Patient unable to recall any family history.
 
Physical Exam:
PHYSICAL EXAMINATION:

VS: ___ ___ Temp: 98.7 PO BP: 134/64 HR: 91 RR: 16 O2 sat: 
97%
GENERAL: lying comfortably in bed, no acute distress
HEENT: AT/NC, no conjunctival pallor, anicteric sclera, MMM
NECK: supple, moderate swelling adjacent to the right mandible,
two finger trismus, mild tenderness with palpation, otherwise
non-tender neck, no JVP elevation on left side
CV: RRR, S1 and S2 normal, no murmurs/rubs/gallops
RESP: CTAB, no wheeze/crackles
___: soft, non-tender, no distention, BS normoactive
EXTREMITIES: warm, well perfused, no lower extremity edema
NEURO: A/O x3, moving all four extremities with purpose

DISHCARGE EXAM
================
___ 0004 Temp: 98.4 PO BP: 132/74 HR: 70 RR: 18 O2 sat: 97%
O2 delivery: RA 
 
GENERAL: sitting in the chair, no acute distress
HEENT: AT/NC, no conjunctival pallor, anicteric sclera, MMM
NECK: supple, moderate swelling adjacent to the right mandible,
two finger trismus, mild tenderness with palpation, much
improved, otherwise non-tender neck, no JVP elevation on left
side
CV: RRR, S1 and S2 normal, no murmurs/rubs/gallops
RESP: CTAB, no wheeze/crackles
___: soft, non-tender, no distention, BS normoactive
EXTREMITIES: warm, well perfused, trace lower extremity edema
NEURO: A/O x3, moving all four extremities with purpose

 
Pertinent Results:
ADMISSION LABS
===============

___ 07:54PM BLOOD WBC-12.8* RBC-4.23* Hgb-12.4* Hct-39.3* 
MCV-93 MCH-29.3 MCHC-31.6* RDW-13.2 RDWSD-44.6 Plt ___
___ 07:54PM BLOOD Glucose-154* UreaN-22* Creat-1.1 Na-141 
K-4.9 Cl-105 HCO3-24 AnGap-12
___ 09:24AM BLOOD Calcium-9.4 Phos-3.2 Mg-1.8 Iron-30*
___ 09:24AM BLOOD calTIBC-207* Ferritn-153 TRF-159*

IMAGING
==========
CT NECK
 
IMPRESSION:  
  
Findings most consistent with right parotitis, with parotid 
abscess, 
surrounding inflammatory change. 

DISCHARGE LABS
=================

___ 05:20AM BLOOD WBC-9.7 RBC-3.93* Hgb-11.3* Hct-36.1* 
MCV-92 MCH-28.8 MCHC-31.3* RDW-13.1 RDWSD-43.8 Plt ___
___ 05:20AM BLOOD Plt ___
___ 05:20AM BLOOD Glucose-96 UreaN-21* Creat-1.1 Na-144 
K-4.5 Cl-106 HCO3-22 AnGap-16
___ 05:20AM BLOOD Calcium-9.0 Phos-3.7 Mg-1.___ year old man with history of prostate cancer, s/p external 
beam radiotherapy, pre-diabetes, presented with right parotid 
sialadenitis complicated by abscess. ___ consulted, recommended 
48 hours of IV unasyn and given improvement, opted against 
surgical intervention. He was discharged with augmentin to 
complete a total of 10-day course of antibiotics, with 
outpatient ___ with ___.

TRANSITIONAL ISSUES:
[] Noted to have tiny R thyroid nodule, no f/u recommended
[] To complete at least 10-day course of antibiotics, last day: 
___
[] Hb on discharge 11.3

ACUTE ISSUES:
#R acute sialodenitis with parotid abscess: Treated with 
sialagogues, warm compresses, and IV unasyn while inpatient, 
then transitioned to augmentin to complete 14 day total abx 
course. ___ consulted and recommended against surgical 
intervention, will ___ as outpatient. 

#Anemia: Hb 11.3 on discharge, iron studies c/w anemia of 
chronic inflammation.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. Omeprazole 20 mg PO DAILY:PRN GERD 
3. Vitamin D ___ UNIT PO DAILY 
4. Fluticasone Propionate NASAL 1 SPRY NU BID 
5. tadalafil 20 mg oral PRN 
6. DiphenhydrAMINE 25 mg PO Q8H:PRN Allergies 
7. Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 12 Days 

RX *amoxicillin-pot clavulanate [Augmentin] 875 mg-125 mg 1 
tablet(s) by mouth twice a day Disp #*20 Tablet Refills:*0 
2.  Atorvastatin 20 mg PO QPM  
3.  DiphenhydrAMINE 25 mg PO Q8H:PRN Allergies  
4.  Fluticasone Propionate NASAL 1 SPRY NU BID  
5.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild  
6.  Omeprazole 20 mg PO DAILY:PRN GERD  
7.  tadalafil 20 mg oral PRN  
8.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: Parotitis, parotid abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure caring for you at ___ 
___.  

WHY WERE YOU IN THE HOSPITAL?  
- You were admitted to the hospital for an abscess in your right 
parotid gland

WHAT HAPPENED WHEN YOU WERE IN THE HOSPITAL?  
- You were seen by our oral maxillofacial surgeons, who felt you 
did not need surgery
- You were given antibiotics

WHAT SHOULD YOU DO AFTER YOU LEAVE THE HOSPITAL?  
- Finish the course of antibiotics
- Use warm compresses as much as possible
- Keep sucking on the lemon candies to stimulate the gland as 
much as possible!
- ___ with your PCP and ___

___ wish you the best!  

Sincerely,  

Your ___ Team

 
Followup Instructions:
___